US05190574
4-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yloxy)-o-dinitrobenzene (17.7 g, 54.9 mmol) was dissolved in a mixture of glacial acetic acid (90 cm3) and acetic anhydride (10 cm3) and the solution was warmed to 80° C. N-Bromosuccinimide (14.7 g, 82.4 mmol) was added, and the mixture was stirred at 80° C. for 21 hours, and then cooled to room temperature. The precipitate was collected, washed with water, and then taken up in ethyl acetate (500 cm3). The solution was washed with saturated sodium bicarbonate solution (2×300 cm3), dried (MgSO4), filtered and evaporated under reduced pressure to give 4-(4-bromo-1-methyl-5-trifluoromethyl-1H-pyrazol-3-yloxy)-o-dinitrobenzene (17.5 g) as a colourless solid m.p. 152°-153° C.

reactant | 4-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yloxy)-o-dinitrobenzene | 54.9 mmol, 17.7 g | CN1N=C(C=C1C(F)(F)F)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H7F3N4O5
reactant | N-Bromosuccinimide | 82.4 mmol, 14.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 90 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 10 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(4-bromo-1-methyl-5-trifluoromethyl-1H-pyrazol-3-yloxy)-o-dinitrobenzene | 17.5 g | BrC=1C(=NN(C1C(F)(F)F)C)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H6BrF3N4O5
